US04011238
EXAMPLE 1: 1-(m-Chlorophenyl)-3-[2-(3,3-dimethylazetidin-1yl)-ethyl]-2-imidazolidinone
A solution of 5 g. of 1-(m-chlorophenyl)-2-imidazolidinone in 30 ml. of dimethylformamide is added at room temperature to a mixture of 1.5 g. of 50% NaH (as a mineral oil emulsion) in 30 ml. of dimethylformamide. The reaction mixture is stirred for an hour at room temperature and 4.5 g. of 3,3-dimethyl-1-(2-chloroethyl)azetidine is added thereto. The mixture is then stirred at room temperature for an additional two hours, then heated for five hours at 80°-85° C. The by-product salts are filtered off and the solvent is removed under vacuum. The residue is taken up with 8 ml. of aqueous 18% HCl and 16 ml. of water and extracted with ether. The water solution is alkalinized by adding aqueous 15% sodium carbonate and extracted with diethyl ether. By evaporation of the organic layer, a residue is obtained that is triturated in light petroleum. Yield 7.24 g., m.p. 84°-85° C. (from hexane). The hydrochloride melts at 191°- 192° C.

reactant | 1-(m-chlorophenyl)-2-imidazolidinone | ClC=1C=C(C=CC1)N1C(NCC1)=O | C9H9ClN2O
reactant | NaH | [H-].[Na+]
reactant | 3,3-dimethyl-1-(2-chloroethyl)azetidine | CC1(CN(C1)CCCl)C | C7H14ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(m-Chlorophenyl)-3-[2-(3,3-dimethylazetidin-1yl)-ethyl]-2-imidazolidinone | ClC=1C=C(C=CC1)N1C(N(CC1)CCN1CC(C1)(C)C)=O | C16H22ClN3O
